US04954518
3-Formyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was reacted with benzyltriphenylphosphonium bromide in the presence of potassium tertbutoxide to obtain 3-(2-phenylvinyl)-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 3-Formyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | C(=O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H13NO6S
reactant | benzyltriphenylphosphonium bromide | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tertbutoxide | CC(C)([O-])C.[K+]
product | 3-(2-phenylvinyl)-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | C1(=CC=CC=C1)C=CC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C24H19NO5S
